US06531474B1
1-(2-tert-Butoxycarbonylamino-3,3-dimethyl-butyryl)-pyrrolidine-2-carboxylic Acid Benzyl Ester (70)
To a suspension of H-pro-OBzl.HCl (2.00 g, 8.66 mmol) in CH2Cl2 (20 ml) was added DIEA (2.25 ml, 12.92 mmol) to give a colorless solution. Boc-tLeu-OH (1.95 g, 9.52 mmol), HOBT (1.76 g, 13.03 mmol) and EDC (2.49 g, 12.95 mmol) were added and the solution stirred under N2 at room temperature for 18 hours. Removed solvent in vacuo, dissolved in EtOAc and washed with H2O, 0.5N NaHSO4 (2×), saturated NaHCO3 (2×) and brine. Dried over anhydrous Na2SO4 and evaporated to give the title compound. (3.57 g, 99% yield). 1H-NMR (500 MHz, CDCl3) δ 0.99 (s, 9H), 1.40 (s, 9H), 1.88-2.33 (m, 4H), 3.58-3.90 (m, 2H), 4.21-4.35 (d, 1H), 4.53-4.66 (m, 1H), 5.04-5.38 (m, 3H), 7.14-7.42 (m, 5H). LC-MS (ES+) m/e=419.4 (M+H).

reactant | H-pro-OBzl.HCl | 8.66 mmol, 2.00 g | C1C[C@H](NC1)C(=O)OCC2=CC=CC=C2.Cl
reactant | DIEA | 12.92 mmol, 2.25 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | Boc-tLeu-OH | 9.52 mmol, 1.95 g | N([C@@H](C(C)(C)C)C(=O)O)C(=O)OC(C)(C)C | C11H21NO4
reactant | HOBT | 13.03 mmol, 1.76 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 12.95 mmol, 2.49 g
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(2-tert-Butoxycarbonylamino-3,3-dimethyl-butyryl)-pyrrolidine-2-carboxylic Acid Benzyl Ester | 99% yield | C(C1=CC=CC=C1)OC(=O)C1N(CCC1)C(C(C(C)(C)C)NC(=O)OC(C)(C)C)=O | C23H34N2O5
